US04148806
4,5-Dihydro-4-oxo-5(phenylmethyl)pyrano[3,2-b]indole-2-carboxylic acid.
A mixture of 6.0 g (0.017 mole) of ethyl 4,5-dihydro-4-oxo-5-(phenylmethyl)pyrano [3,2-b]indole-2-carboxylate, 80 ml 1% aqueous sodium hydroxide, and 450 ml water was stirred at room temperature for 3 hr. Ethanol (~150 ml) was then added until virtually all of the insoluble material present had dissolved. After washing twice with 250 ml of chloroform, the aqueous layer was filtered by gravity, cooled in ice, and acidified with 4 N hydrochloric acid. The tan precipitate was filtered, digested for 15 min on the steam bath with 100 ml of water and re-filtered while still warm. Recrystallization of the final product from DMF-water yielded a white powder of mpt. 290°-dec.

reactant | ethyl 4,5-dihydro-4-oxo-5-(phenylmethyl)pyrano [3,2-b]indole-2-carboxylate | 0.017 mole, 6.0 g | O=C1C=C(OC2=C1N(C=1C=CC=CC21)CC2=CC=CC=C2)C(=O)OCC | C21H17NO4
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
reactant | water | 450 ml | O | H2O
solvent | Ethanol | ~150 ml | C(C)O | C2H6O
product | 4,5-Dihydro-4-oxo-5(phenylmethyl)pyrano[3,2-b]indole-2-carboxylic acid | O=C1C=C(OC2=C1N(C=1C=CC=CC21)CC2=CC=CC=C2)C(=O)O | C19H13NO4
